US05716954
To the 7-hydroxy-7-(3-chlorophenyl)-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one was added 500 mL of water, 250 mL of concentrated hydrochloric acid and the mixture was heated under reflux for 24 hours. The solution was then filtered, cooled and made basic with sodium hydroxide. An ethyl acetate extraction removed unhydrolyzed starting material and the pH of the resulting aqueous fraction was adjusted to pH 2 with hydrochloric acid. The resulting aqueous fraction was extracted twice with ethyl acetate (250 mL). The solvent was removed yielding 16 g of 7-hydroxy-7-(3-chlorophenyl)-7H-furo[3,4-b]pyridin-5-one, which was used without further purification.

reactant | 7-hydroxy-7-(3-chlorophenyl)-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one | OC1(N(C(C=2C1=NC=CC2)=O)CCCC)C2=CC(=CC=C2)Cl | C17H17ClN2O2
reactant | hydrochloric acid | 250 mL | Cl | ClH
reactant | water | 500 mL | O | H2O
product | 7-hydroxy-7-(3-chlorophenyl)-7H-furo[3,4-b]pyridin-5-one | 16 g | OC1(OC(C=2C1=NC=CC2)=O)C2=CC(=CC=C2)Cl | C13H8ClNO3
